US06359134B1
1-(3-Diisopropylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride
To 1-(3-diisopropylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine (215 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml), and the precipitated hydrochlorides were filtered to give the title compound (219 mg).

reactant | 1-(3-diisopropylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine | 215 mg | C(C)(C)N(C(C)C)CC=1C=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=CC1 | C28H35N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-Diisopropylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride | 219 mg | Cl.C(C)(C)N(C(C)C)CC=1C=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=CC1 | InChI=1S/C28H35N3O3S.ClH/c1-21(2)31(22(3)4)20-23-8-7-11-26(18-23)28(32)29-14-16-30(17-15-29)35(33,34)27-13-12-24-9-5-6-10-25(24)19-27;/h5-13,18-19,21-22H,14-17,20H2,1-4H3;1H
